US07132425B2
A mixture of 2-bromo-5-nitropyrazine (500 mg, 2.45 mmol) and 2-methoxyethylamine (276 mg, 3.67 mmol) in methanol (15 mL) was stirred at 25° C. for 5 h. After such time, the reaction was concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 2/3 to 1/4 hexanes/ethyl acetate) afforded (2-methoxy-ethyl)-(5-nitro-pyrazin-2-yl)-amine (291 mg, 60%) as a yellow solid: mp 116.0–117.3° C.; EI-HRMS m/e calcd for C7H10N4O3 (M+) 198.0753, found 198.0751.

reactant | 2-bromo-5-nitropyrazine | 2.45 mmol, 500 mg | BrC1=NC=C(N=C1)[N+](=O)[O-] | C4H2BrN3O2
reactant | 2-methoxyethylamine | 3.67 mmol, 276 mg | COCCN | C3H9NO
solvent | methanol | 15 mL | CO | CH4O
product | (2-methoxy-ethyl)-(5-nitro-pyrazin-2-yl)-amine | 291 mg, 60% | COCCNC1=NC=C(N=C1)[N+](=O)[O-] | C7H10N4O3
